US05192785
To a solution of 43.5 ml (0.5 mole) of chlorosulfonyl isocyanate in 400 ml of methylene chloride, stirred in an ice bath, was added 51.6 ml (0.5 mole) of benzyl alcohol over an one hr period. The reaction mixture was concentrated under reduced pressure and the solid residue was triturated in petroleum ether (bp range 35°-65° C.). The solid was collected by filtration, rinsed twice with petroleum ether and dried under vacuum to give 110 g (88% yield) of benzyloxycarbonylsulfamoyl chloride.

reactant | chlorosulfonyl isocyanate | 0.5 mole, 43.5 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | benzyl alcohol | 0.5 mole, 51.6 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | benzyloxycarbonylsulfamoyl chloride | 110 g, 88% yield | C(C1=CC=CC=C1)OC(=O)NS(=O)(=O)Cl | C8H8ClNO4S
